US08604015B2
To a solution of (R)-bis(3-fluorophenyl)methyl 1-benzylpyrrolidin-3-ylcarbamate (300 mg, 0.71 mmol) in EtOAc (9 ml), iodomethane (44.2 μl, 0.71 mmol) was added, and the reaction was stirred at room temperature overnight. The solvent was then removed under vacuum, and the residue was triturated with diethyl ether. The product was purified by flash chromatography (DCM/MeOH=99/1) and then by preparative HPLC to give (3R)-1-benzyl-3-((bis(3-fluorophenyl)methoxy)carbonylamino)-1-methylpyrrolidinium iodide (25 mg).

reactant | (R)-bis(3-fluorophenyl)methyl 1-benzylpyrrolidin-3-ylcarbamate | 0.71 mmol, 300 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC(OC(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F)=O | C25H24F2N2O2
reactant | iodomethane | 0.71 mmol, 44.2 μl | IC | CH3I
solvent | EtOAc | 9 ml | CCOC(=O)C | C4H8O2
product | (3R)-1-benzyl-3-((bis(3-fluorophenyl)methoxy)carbonylamino)-1-methylpyrrolidinium iodide | 25 mg | [I-].C(C1=CC=CC=C1)[N+]1(C[C@@H](CC1)NC(=O)OC(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F)C | InChI=1S/C26H26F2N2O2.HI/c1-30(17-19-7-3-2-4-8-19)14-13-24(18-30)29-26(31)32-25(20-9-5-11-22(27)15-20)21-10-6-12-23(28)16-21;/h2-12,15-16,24-25H,13-14,17-18H2,1H3;1H/t24-,30?;/m1./s1
